US05286721
To a solution of 7.00 g of 2-(N-allyloxycarbonylaminomethyl)-3-t-butyldimethylsilyloxybutan-1-ol and 4.60 ml of triethylamine in 35 ml of dichloromethane was added dropwise 2.05 ml of methanesulfonyl chloride at -10° C. After stirring for 3 hours, water was added to the reaction mixture and then the solution was extracted with chloroform. The organic layer was washed in turn with 1N hydrochloric acid and brine, and dried over anhydrous magnesium sulfate. Evaporation of the solvent followed by a column chromatography on silica gel (hexane:ethyl acetate=3:1) gave 8.8 g of 2-(N-allyloxycarbonylaminomethyl)-3-t-butyldimethylsilyloxy-1-methanesulfonyloxybutane.

reactant | 2-(N-allyloxycarbonylaminomethyl)-3-t-butyldimethylsilyloxybutan-1-ol | 7.00 g | C(C=C)OC(=O)NCC(CO)C(C)O[Si](C)(C)C(C)(C)C | C15H31NO4Si
reactant | triethylamine | 4.60 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.05 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 2-(N-allyloxycarbonylaminomethyl)-3-t-butyldimethylsilyloxy-1-methanesulfonyloxybutane | 8.8 g | C(C=C)OC(=O)NCC(COS(=O)(=O)C)C(C)O[Si](C)(C)C(C)(C)C | C16H33NO6SSi
